US04233216
(E) Diphenylmethyl α-[4(R)-acetonyloxy-3(R)phenylacetamido-2-oxo-azetidin-1-yl]-α-triphenylphosphoranylideneacetate
To a solution of crude diphenylmethyl α-[4(R)-acetonyloxy-3(R)-phenylacetamido-2-oxo-azetidin-1-yl]-α-chloroacetate (2.251 g) in anhydrous methylene-chloride (20 ml) is added triphenylphosphine (1.50 g), and the mixture is refluxed for 4 hours under nitrogen atmosphere. The reaction mixture is poured into ice water, mixed with 5% aqueous solution of sodium hydrogen carbonate (20 ml), and extracted with methylene chloride. The organic layer is washed with water, dried over sodium sulfate, and evaporated under reduced pressure. Purification of the residue by chromatography over silica gel containing 10% water (100 g) using a mixture of benzene and ethyl acetate (1:2) as eluting solvent gives the product.

reactant | diphenylmethyl α-[4(R)-acetonyloxy-3(R)-phenylacetamido-2-oxo-azetidin-1-yl]-α-chloroacetate | 2.251 g | C(C(=O)C)O[C@@H]1[C@H](C(N1C(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)Cl)=O)NC(CC1=CC=CC=C1)=O | C29H27ClN2O6
reactant | triphenylphosphine | 1.50 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium hydrogen carbonate | 20 ml | C(O)([O-])=O.[Na+]
solvent | methylene-chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | Diphenylmethyl α-[4(R)-acetonyloxy-3(R)phenylacetamido-2-oxo-azetidin-1-yl]-α-triphenylphosphoranylideneacetate | C(C(=O)C)O[C@@H]1[C@H](C(N1C(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)NC(CC1=CC=CC=C1)=O | C47H41N2O6P
